Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Back Pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ male with a history of remote prostate 
cancer, urinary retention chronically (self-catherizes), and an 
L1 osteoporotic compression fracture sustained 8 weeks ago 
status post kyphoplasty on ___ who is presenting with pain and 
weakness. 

The patient presented to ___, where he was found to have 
decreased strength in lower extremities. He was noted to be 
retaining urine, however, he does straight cath every day and 
has for the past several years. He was referred to ___ for 
spine evaluation after a MRI of the L-spine showed increased 
edema in L1 suggesting mild worsening inferior endplate 
compression
fracture as well as moderate spinal stenosis at L1-2 but 
unchanged with similar mass effect on cord and no cord signal 
abnormality. 

Upon arrival to the ED at ___, the patient was complaining of 
back pain and bilateral lower extremity weakness for 1 day but 
otherwise reports being asymptomatic. His initial vitals in the 
ED were significant for T-98.2, HR-84, BP-153/69, RR- 18, O2-93% 
RA. His exam was benign, including a benign spinal exam with the 
exception of midline high lumbar tenderness. 

In the ED, spine was consulted and recommended admission to 
medicine for pain control and due to deconditioning.   

REVIEW OF SYSTEMS:  
A 10-point ROS was taken and is negative except otherwise stated 
in the HPI. 

 
Past Medical History:
- MACULAR DEGENERATION
- HLD
- H/O PROSTATE CANCER

 
Social History:
___
Family History:
- Mother: DEPRESSION
- Brother: BLADDER CANCER
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
#ERROR!
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII intact, ___ strength upper/lower extremities,
grossly normal sensation, 2+ reflexes bilaterally.

DISCHARGE PHYSICAL EXAM:
#ERROR!
24 HR Data (last updated ___ @ 2244)
    Temp: 98.5 (Tm 98.5), BP: 156/81 (141-162/69-84), HR: 76
(76-86), RR: 17 (___), O2 sat: 95% (93-96), O2 delivery: Ra   
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, neck supple, 
CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
Lungs: CTAB, no wheezes, rales, rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: ___ strength lower extremities, normal ___ sensation 
 
Pertinent Results:
ADMISSION LABS:
#ERROR!
___ 09:30AM BLOOD WBC-5.7 RBC-4.10* Hgb-12.8* Hct-39.4* 
MCV-96 MCH-31.2 MCHC-32.5 RDW-13.6 RDWSD-47.9* Plt ___
___ 09:30AM BLOOD Glucose-101* UreaN-12 Creat-0.8 Na-140 
K-3.9 Cl-103 HCO3-26 AnGap-11

DISCHARGE LABS:
#ERROR!
___ 04:21AM BLOOD WBC-5.9 RBC-4.04* Hgb-12.5* Hct-38.8* 
MCV-96 MCH-30.9 MCHC-32.2 RDW-13.5 RDWSD-48.2* Plt ___
___ 04:21AM BLOOD ___ PTT-28.9 ___
___ 04:06AM BLOOD Glucose-102* UreaN-14 Creat-0.9 Na-141 
K-3.9 Cl-104 HCO3-23 AnGap-14

MICROBIOLOGY:
#ERROR!
None

IMAGING/STUDIES
#ERROR!
___ ___ L-Spine MRI
1. Severe degenerative changes at T12-L1 and L1-2 with a new 
STIR hyperintensity and hypointensity likely related to recent 
vertebroplasty.
2. Moderate to severe spinal canal narrowing at T12-L1, L1-2 and 
L2-3, unchanged.
3. Focal right-sided thickening of the ligamentum flavum at L4-5 
effaces the right lateral recess and distorts the right L4 nerve 
root.
4. Unchanged multiple renal simple cysts.

 
Brief Hospital Course:
TRANSITIONAL ISSUES:
#ERROR!
[ ]Evaluated by SLP per patient request. SLP concluded 
esophageal issue, possibly dysmotility. Recommend GI outpatient 
follow-up if symptoms are bothersome to patient
[ ]If pain and difficulty walking persists following complete 
___ rehab, consider steroid injections to lower back
[ ]Please schedule appointment with PCP ___ ___ days following 
___ rehab discharge

#CODE: Full presumed
#CONTACT:
___ ___ in law 

SUMMARY:
#ERROR!
Mr. ___ is a ___ year old man with L1 osteoporotic compression 
fracture who was admitted for pain control and deconditioning.

ACTIVE MANAGEMENT:
#ERROR!
# Back Pain 
# L1 osteoporotic compression fracture s/p kyphoplasty on ___ 
MRI L-spine showed increased edema in L1 suggesting mild 
worsening inferior endplate compression fracture as well as 
moderate spinal stenosis at L1-2. Spine neurosurgery was 
consulted and did not feel there was any clinical evidence of 
cord compression or urgent surgical indications and recommended 
medical management for pain/spasms. Pain was managed with 
standing Tylenol, ketorolac, oxycodone with aggressive bowel 
regimen. Patient was evaluated by physical therapy, he was 
recommended for ___ rehab.

#Dyphagia
Patient endorsed a few episodes for food getting stuck in 
esophagus over the previous week. Per patient and family 
request, SLP was consulted. SLP concluded that it appeared to be 
a esophageal issue, possibly dysmotility. It was recommended for 
him to follow-up with GI outpatient if symptoms were bothersome. 
  

CHRONIC MANAGEMENT:
#ERROR!
#Urinary Retention
He was continued on home tamsulosin and bethanechol.  Pt has 
continued intermittent straight cath as per home regimen.  UA 
was checked and was negative for infection.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tamsulosin 0.4 mg PO QHS 
2. TraZODone 25 mg PO QHS:PRN insomina 
3. Bethanechol 25 mg PO BID 
4. diclofenac sodium 1 % topical QID:PRN 
5. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
6. Senna 17.2 mg PO QHS:PRN Constipation - First Line 
7. Acetaminophen w/Codeine 1 TAB PO BID 
8. Celecoxib 200 mg oral BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID  
2.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*10 Tablet Refills:*0 
3.  Bethanechol 25 mg PO BID  
4.  Celecoxib 200 mg oral BID  
5.  diclofenac sodium 1 % topical QID:PRN  
6.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
7.  Senna 17.2 mg PO QHS:PRN Constipation - First Line  
8.  Tamsulosin 0.4 mg PO QHS  
9.  TraZODone 25 mg PO QHS:PRN insomina  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
#ERROR!
#Lower Back Pain 
#L1 compression fracture w/o retropulsion s/p kyphoplasty 
___  

SECONDARY DIAGNOSIS:
#ERROR!
#Urinary Retention
#History of Prostate Cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure to care for you at the ___ 
___.  

Why did you come to the hospital?  
- You had back pain and weakness following your kyphoplasty

What did you receive in the hospital?  
- Imaging of you spine was completed. Our neurosurgeons 
evaluated the imaging and recommended no surgical intervention
- Your pain was managed and you were seen by our physical 
therapists who recommended ___ rehab
- You had concerns regarding swallowing. Speech and swallow 
evaluated you and recommended possible GI outpatient follow-up 
for dysmotility if symptoms were impairing.

What should you do once you leave the hospital?  
- Please complete your rehab 
- Please take all your medications as prescribed
- Please attend all your scheduled appointments

We wish you the best!  
Your ___ Care Team  
 
Followup Instructions:
___